US08258130B2
To a solution of 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (0.28 g, 1.4 mmol) in anhydrous DCM (10 mL) at 0° C. is added the oxalyl chloride (0.18 mL, 1.4 mmol) followed by the addition of DMF (0.11 mL). The mixture is stirred at 0° C. for 30 min, and then allowed to warm up to rt and stirred for 30 min. The mixture is concentrated in vacuo. The residue is dissolved in anhydrous DCM (10 mL). 2-(4-Amino-piperazin-1-yl)-ethanol (0.145 g, 1 mmol) is added at rt followed by the addition of NMP (0.19 mL, 2 mmol). The mixture is stirred at rt for 2 h and the mixture is then concentrated in vacuo. The residue is triturated in Et2O and the resulting solid is collected by filtration to afford 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-amide (0.16 g). MS: 346 (M+H).

reactant | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid | 1.4 mmol, 0.28 g | FC=1C=C(C=CC1)C1=NC=C(C=N1)C(=O)O | C11H7FN2O2
reactant | oxalyl chloride | 1.4 mmol, 0.18 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(4-Amino-piperazin-1-yl)-ethanol | 1 mmol, 0.145 g | NN1CCN(CC1)CCO | C6H15N3O
reactant | NMP | 2 mmol, 0.19 mL | CN1CCCC1=O | C5H9NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.11 mL | CN(C)C=O | C3H7NO
product | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-amide | 0.16 g | OCCN1CCN(CC1)NC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F | C17H20FN5O2
